US04503236
3-Methoxy-4-phenyl-4H-furo[3,2-b]indole-2-carboxylic acid
A suspension of 13.5 g (0.042 mole) of 3-methoxy-4-phenyl-4H-furo[3,2-b]indole-2-carboxylic acid methyl ester in 75 ml of methanol was treated with 70.6 ml of 1.0N aqueous sodium hydroxide. The mixture was stirred at reflux for 17 hours, then added to 1.4 l of water. The insoluble material was filtered, added to 1.0 l of water, and acidified with acetic acid while cooling in an ice bath. The crude acid product was recovered by filtration. The original filtrate from the reaction mixture and 1.4 l of water was also cooled in ice and acidified with acetic acid. The crude product obtained was filtered and combined with the earlier crop. The combined crude products were stirred in 400 ml of water, filtered, and recrystallized from methanol. There are obtained 5.8 g (45% yield) of analytically pure acid, mp 154°-155° C.

reactant | 3-methoxy-4-phenyl-4H-furo[3,2-b]indole-2-carboxylic acid methyl ester | 0.042 mole, 13.5 g | COC(=O)C1=C(C=2N(C=3C=CC=CC3C2O1)C1=CC=CC=C1)OC | C19H15NO4
reactant | sodium hydroxide | 1.0N, 70.6 ml | [OH-].[Na+]
reactant | water | 1.4 l | O | H2O
solvent | methanol | 75 ml | CO | CH4O
product | 3-Methoxy-4-phenyl-4H-furo[3,2-b]indole-2-carboxylic acid | 45% yield | COC1=C(OC2=C1N(C=1C=CC=CC21)C2=CC=CC=C2)C(=O)O | C18H13NO4
